US09107916B2
A. methyl 3-chloro-4-cyclopropylbenzoate
The title compound was prepared from methyl 4-bromo-3-chlorobenzoate and cyclopropylboronic acid according to the procedure for the preparation of EXAMPLE 152, part A. 1H NMR (400 MHz, CDCl3): δ 0.73-0.77 (2H, m), 1.07-1.12 (2H, m), 2.24-2.30 (1H, m), 3.90 (3H, s), 6.93 (1H, d, J=8.0 Hz), 7.80 (1H, dd, J=1.6 Hz, 8.0 Hz), 8.01 (1H, d, J=1.6 Hz).

reactant | methyl 4-bromo-3-chlorobenzoate | BrC1=C(C=C(C(=O)OC)C=C1)Cl | C8H6BrClO2
reactant | cyclopropylboronic acid | C1(CC1)B(O)O | C3H7BO2
product | methyl 3-chloro-4-cyclopropylbenzoate | ClC=1C=C(C(=O)OC)C=CC1C1CC1 | C11H11ClO2
